US08895474B2
To a mixture of 2-(2-ethyl-5-hydroxyphenyl)hexahydro-4,7-ethanoindene-1,3-dione (83 mg, 0.28 mmol) and anhydrous potassium carbonate (90 mg, 0.56 mmol) is added a solution of 2,6-dichloroquinoxaline (67 mg, 0.34 mmol) in anhydrous dimethylformamide (2.0 ml), and the mixture is heated at 140° C. for 40 minutes under microwave irradiation. The mixture is acidified with 2M aqueous hydrochloric acid and diluted with dichloromethane then filtered. The organic phase is concentrated under reduced pressure and the residue is purified by preparative reverse phase HPLC to afford 2-[5-(6-chloroquinoxalin-2-yloxy)-2-ethylphenyl]hexahydro-4,7-ethanoindene-1,3-dione.

reactant | 2-(2-ethyl-5-hydroxyphenyl)hexahydro-4,7-ethanoindene-1,3-dione | 0.28 mmol, 83 mg | C(C)C1=C(C=C(C=C1)O)C1C(C2C3CCC(C2C1=O)CC3)=O | C19H22O3
reactant | potassium carbonate | 0.56 mmol, 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dichloroquinoxaline | 0.34 mmol, 67 mg | ClC1=NC2=CC=C(C=C2N=C1)Cl | C8H4Cl2N2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[5-(6-chloroquinoxalin-2-yloxy)-2-ethylphenyl]hexahydro-4,7-ethanoindene-1,3-dione | ClC=1C=C2N=CC(=NC2=CC1)OC=1C=CC(=C(C1)C1C(C2C3CCC(C2C1=O)CC3)=O)CC | C27H25ClN2O3
